US07087579B2
To a solution of 2-(p-tolyl)pyridine (1.7 g) and N-chlorosuccinimide (1.5 g) in carbon tetrachloride (30 mL) was added α,α-azobisisobutyronitrile (0.033 g), and the mixture was heated under reflux for 5 hours. Insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1-3/1) to give 4-(pyridin-2-yl)benzyl chloride (1.1 g).

reactant | 2-(p-tolyl)pyridine | 1.7 g | C1(=CC=C(C=C1)C1=NC=CC=C1)C | C12H11N
reactant | N-chlorosuccinimide | 1.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | α,α-azobisisobutyronitrile | 0.033 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 4-(pyridin-2-yl)benzyl chloride | 1.1 g | N1=C(C=CC=C1)C1=CC=C(CCl)C=C1 | C12H10ClN
